Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[NH:1][CH2:2][c:3]1[n:4][cH:5][c:6]([CH2:7][C:8](=[O:9])[N:10]([CH3:11])[CH2:12][CH2:13][c:14]2[cH:15][cH:16][cH:17][cH:18][n:19]2)[c:20]2[cH:21][c:22]([O:23][CH3:24])[c:25]([O:26][CH3:27])[cH:28][c:29]12>>[NH2:1][CH2:2][c:3]1[n:4][cH:5][c:6]([CH2:7][C:8](=[O:9])[N:10]([CH3:11])[CH2:12][CH2:13][c:14]2[cH:15][cH:16][cH:17][cH:18][n:19]2)[c:20]2[cH:21][c:22]([O:23][CH3:24])[c:25]([O:26][CH3:27])[cH:28][c:29]12,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH2:2][c:3]1[n:4][cH:5][c:6]([CH2:7][C:8](=[O:9])[N:10]([CH3:11])[CH2:12][CH2:13][c:14]2[cH:15][cH:16][cH:17][cH:18][n:19]2)[c:20]2[cH:21][c:22]([O:23][CH3:24])[c:25]([O:26][CH3:27])[cH:28][c:29]12.[H+:301]>>[NH2:1][CH2:2][c:3]1[n:4][cH:5][c:6]([CH2:7][C:8](=[O:9])[N:10]([CH3:11])[CH2:12][CH2:13][c:14]2[cH:15][cH:16][cH:17][cH:18][n:19]2)[c:20]2[cH:21][c:22]([O:23][CH3:24])[c:25]([O:26][CH3:27])[cH:28][c:29]12,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(=O)[O:1][C@H:2]1[C@@H:3]([c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]2)[S:12][CH:13]=[C:14]([c:15]2[cH:20][cH:19][cH:18][cH:17][cH:16]2)[N:21]([CH2:22][CH2:23][N:24]([CH3:25])[CH3:26])[C:27]1=[O:28]>>[OH:1][C@H:2]1[C@@H:3]([c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]2)[S:12][CH:13]=[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH2:22][CH2:23][N:24]([CH3:25])[CH3:26])[C:27]1=[O:28],C[C:101](=[O:201])[O:1][C@H:2]1[C@@H:3]([c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]2)[S:12][CH:13]=[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH2:22][CH2:23][N:24]([CH3:25])[CH3:26])[C:27]1=[O:28].[OH-:301].[OH-:302]>>[OH:1][C@H:2]1[C@@H:3]([c:4]2[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]2)[S:12][CH:13]=[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH2:22][CH2:23][N:24]([CH3:25])[CH3:26])[C:27]1=[O:28],base_cat_ester_hydrolysis,"[(301, 101), ([101, 201], 201), (201, [201, 101]), ([101, 1], 1), (302, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCOP(=O)(OCC)[CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].O=[CH:7][c:8]1[cH:9][cH:10][c:11]2[c:12]([cH:13]1)[CH2:14][CH2:15][O:16]2>>[CH:1](\[C:2]([O:3][CH2:4][CH3:5])=[O:6])=[CH:7]/[c:8]1[cH:9][cH:10][c:11]2[c:12]([cH:13]1)[CH2:14][CH2:15][O:16]2,CCO[P:101](=[O:201])(OCC)[CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].[O:102]=[CH:7][c:8]1[cH:9][cH:10][c:11]2[c:12]([cH:13]1)[CH2:14][CH2:15][O:16]2.[OH1-:301]>>[CH:1](\[C:2]([O:3][CH2:4][CH3:5])=[O:6])=[CH:7]/[c:8]1[cH:9][cH:10][c:11]2[c:12]([cH:13]1)[CH2:14][CH2:15][O:16]2,Horner_Wadsworth_Emmons,"[(301, 1.1), ([1.1, 1], 1), (1, 7), ([7, 102], 101), ([101, 201], 201), ([7, 102], [102, 101]), ([101, 1], [1, 7])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[Cl:8][c:9]1[cH:10][n:11][c:12]2[n:13][c:14]1[NH:15][c:16]1[cH:17][cH:18][c:19]([O:20][CH2:21][CH2:22][CH:23]3[CH2:24][CH2:25][NH:26][CH2:27][CH2:28]3)[c:29]([cH:30]1)[CH2:31][CH2:32][c:33]1[cH:34][n:35][cH:36][c:37]([cH:38]1)[NH:39]2.[O:40]=[C:41]=[N:42][CH2:43][c:44]1[cH:45][cH:46][cH:47][o:48]1>>[Cl:8][c:9]1[cH:10][n:11][c:12]2[n:13][c:14]1[NH:15][c:16]1[cH:17][cH:18][c:19]([O:20][CH2:21][CH2:22][CH:23]3[CH2:24][CH2:25][N:26]([C:41](=[O:40])[NH:42][CH2:43][c:44]4[cH:45][cH:46][cH:47][o:48]4)[CH2:27][CH2:28]3)[c:29]([cH:30]1)[CH2:31][CH2:32][c:33]1[cH:34][n:35][cH:36][c:37]([cH:38]1)[NH:39]2,[Cl:8][c:9]1[cH:10][n:11][c:12]2[n:13][c:14]1[NH:15][c:16]1[cH:17][cH:18][c:19]([O:20][CH2:21][CH2:22][CH:23]3[CH2:24][CH2:25][NH:26][CH2:27][CH2:28]3)[c:29]([cH:30]1)[CH2:31][CH2:32][c:33]1[cH:34][n:35][cH:36][c:37]([cH:38]1)[NH:39]2.[O:40]=[C:41]=[N:42][CH2:43][c:44]1[cH:45][cH:46][cH:47][o:48]1>>[Cl:8][c:9]1[cH:10][n:11][c:12]2[n:13][c:14]1[NH:15][c:16]1[cH:17][cH:18][c:19]([O:20][CH2:21][CH2:22][CH:23]3[CH2:24][CH2:25][N:26]([C:41](=[O:40])[NH:42][CH2:43][c:44]4[cH:45][cH:46][cH:47][o:48]4)[CH2:27][CH2:28]3)[c:29]([cH:30]1)[CH2:31][CH2:32][c:33]1[cH:34][n:35][cH:36][c:37]([cH:38]1)[NH:39]2,nucleophilic_attack_to_iso(thio)cyanate,"[(26, 41), ([41, 40], 40), (40, 26.1), ([26.1, 26], 26), (40, [40, 41]), ([41, 42], 42), (42, 40.1), ([40.1, 40], 40)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
